US08097628B2
(b) Title compound: 6-Chloro-5-methyl-3-pyridazinecarbaldehyde
To a white suspension of 3-chloro-6-ethenyl-4-methylpyridazine (34.1 mg, 0.221 mmol), NaIO4 (189 mg, 0.882 mmol), 4-methylmorpholine N-oxide (28.4 mg, 0.243 mmol) in CH3CN (3 mL) and water (1.5 mL) was added OsO4 (0.013 mL, 2.206 μmol), and the mixture was stirred at room temperature for 3 days. The reaction was monitored by LCMS and starting material was observed. The reaction mixture was heated at 60° C. overnight and no more starting material was observed. Solvents were evaporated in vacuo and the residue was partitioned between EtOAc and water. The aqueous layer was extracted with additional EtOAc. The combined organic phases were washed with water, dried with over anhydrous MgSO4, filtered and concentrated under reduced pressure to give 31.1 mg of the title compound as a white solid. It will be used in the next step without prior purification.

reactant | 3-chloro-6-ethenyl-4-methylpyridazine | 0.221 mmol, 34.1 mg | ClC=1N=NC(=CC1C)C=C | C7H7ClN2
reactant | 4-methylmorpholine N-oxide | 0.243 mmol, 28.4 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH3CN | 3 mL | CC#N | C2H3N
solvent | water | 1.5 mL | O | H2O
catalyst | OsO4 | 2.206 μmol, 0.013 mL | O=[Os](=O)(=O)=O
product | 6-Chloro-5-methyl-3-pyridazinecarbaldehyde | 31.1 mg | ClC1=C(C=C(N=N1)C=O)C | C6H5ClN2O
